US08557821B2
To a solution of 1-[4-(4-amino-thiazol-2-yl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone (100 mg, 0.27 mmol) in THF (5 mL) is added dropwise a solution of phenylisocyanate (30 μL, 0.28 mmol) in THF (1 mL) at 0° C. After stirring overnight at RT, methanol (1 mL) is added to the reaction mixture. After stirring 15 min. at RT, the solvents are evaporated and the residue was triturated with diethylether (5 mL) to induce precipitation. The resulting solid is filtered and dried under vacuum to give 1-(2-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-3-phenyl-urea as beige solid (Compound No. I.g.024, 105 mg, 79%). M.p.=192.6° C. 1H-NMR (400 MHz, CDCl3): δ=1H-NMR (MeOD): d=1.65 (m, 1H), 1.80 (m, 1H), 2.40 (m, 2H), 2.30 (s, 3H), 2.98 (m, 1H), 3.30 (m, 1H), 3.39 (m, 1H), 4.10 (m, 1H), 4.52 (m, 1H), 5.22 (2d, 2H, diastereotopic), 6.42 (s, 1H), 7.05 (t, 1H), 7.09 (s, 1H), 7.26-7.45 (m, 6H). MS: m/z=494 (M+1).

reactant | 1-[4-(4-amino-thiazol-2-yl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | 0.27 mmol, 100 mg | NC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C15H18F3N5OS
reactant | phenylisocyanate | 0.28 mmol, 30 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | methanol | 1 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(2-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-thiazol-4-yl)-3-phenyl-urea | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)NC(=O)NC1=CC=CC=C1)C(F)(F)F | C22H23F3N6O2S
